US07335781B2
Step (a): Preparing (1R,2S)-1,2-Diphenyl-2-piperidin-1-yl-ethanol (7g5a)
Repeat Step (a) of EXAMPLE 6, but replace (1R,2S)-2-amino-1-phenyl-3-methyl-butanol with (1R,2S)-2-amino-1,2-diphenyl-ethanol, and replace 1,4-dibromobutane with 1,5-dibromopentane. Column chromatography (Silica gel 50 g, eluent is n-Hexane:EtOAc=5:1) is used to purify the coarse product and a white solid (1.28 g) is obtained. The yield is 91% and the other analysis includes:

reactant | (1R,2S)-2-amino-1-phenyl-3-methyl-butanol | N[C@H]([C@H](O)C1=CC=CC=C1)C(C)C | C11H17NO
reactant | (1R,2S)-2-amino-1,2-diphenyl-ethanol | N[C@H]([C@H](O)C1=CC=CC=C1)C1=CC=CC=C1 | C14H15NO
reactant | 1,4-dibromobutane | BrCCCCBr | C4H8Br2
reactant | 1,5-dibromopentane | BrCCCCCBr | C5H10Br2
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | n-Hexane | CCCCCC | C6H14
product | (1R,2S)-1,2-Diphenyl-2-piperidin-1-yl-ethanol | 1.28 g, yield is 91% | C1(=CC=CC=C1)[C@H]([C@@H](N1CCCCC1)C1=CC=CC=C1)O | C19H23NO
